US08012966B2
A stirred solution of 2-carboxymethyl-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (2.67 g, 12.67 mmol) in N,N-dimethylformamide (6.5 ml) and dichloromethane (65 ml) was added with 2-piperidin-1-yl-ethylamine (1.78 g, 13.9 mmol), N-ethyl-N′-(dimethylaminopropyl)-carbodiimide hydrochloride (4.84 g, 25.34 mmol) and 1-hydroxybenzotriazol (1.71 g, 12.67 mmol) in an ice/water-bath. Upon completion of the addition, the reaction mixture was stirred at room temperature overnight, then added with cold water (50 ml), and extracted with dichloromethane (50 ml×3). The combined organic extracts were washed with saturated sodium bicarbonate (50 ml), water (50 ml), brine (50 ml), dried with anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 4-methyl-2-[(2-piperidin-1-yl-ethyl carbamoyl)-methyl]-1H-pyrrole-3-carboxylic acid ethyl ester (3.46 g, 85%) as a brown oil which was used as such.

reactant | 2-carboxymethyl-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 12.67 mmol, 2.67 g | C(C)OC(=O)C1=C(NC=C1C)CC(=O)O | C10H13NO4
reactant | 2-piperidin-1-yl-ethylamine | 13.9 mmol, 1.78 g | N1(CCCCC1)CCN | C7H16N2
reactant | N-ethyl-N′-(dimethylaminopropyl)-carbodiimide hydrochloride | 25.34 mmol, 4.84 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazol | 12.67 mmol, 1.71 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 6.5 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 65 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | 4-methyl-2-[(2-piperidin-1-yl-ethyl carbamoyl)-methyl]-1H-pyrrole-3-carboxylic acid ethyl ester | 3.46 g, 85% | C(C)OC(=O)C1=C(NC=C1C)CC(NCCN1CCCCC1)=O | C17H27N3O3
